US04560692
(a) N-methylisonipecotamide
A mixture of 20 g (0.147 mol) of N-methylisonicotinamide, 100 ml of ethanol, and 1.2 g of platinum oxide was hydrogenated in a Parr shaker at 60° and 60 psi for 8 hr. The catalyst was filtered off, and the filtrate was concentrated in vacuo. The residue was crystallized from ether to give 20.5 g of crude product, mp 115°-121°.

reactant | N-methylisonicotinamide | 0.147 mol, 20 g | CNC(C1=CC=NC=C1)=O | C7H8N2O
catalyst | platinum oxide | 1.2 g | [Pt]=O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-methylisonipecotamide | 20.5 g | CNC(C1CCNCC1)=O | C7H14N2O
